US07687533B2
N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-1,1,1-trifluoro-N-methylmethanesulfonamide
To a solution of N-(3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-{[(dimethylamino)methylene]amino}-1H-pyrazol-4-yl)-1,1,1-trifluoro-N-methylmethanesulfonamide (240 mg, 0.45 mmol) in methanol (7 ml) was added hydrochloric acid (4N, 4 ml) and the reaction mixture was heated at reflux for 4 h. The reaction mixture was concentrated under nitrogen and the residue partitioned between ethyl acetate and water. The two layers were separated and the aqueous layer was extracted with ethyl acetate (×2). The combined organic phases were dried (MgSO4) and concentrated under nitrogen. The crude product was dissolved in acetonitrile (4 ml) and purified by automated preparative liquid chromatography (Gilson system, 150 mm×21.2 mm Phenomonex LUNA 100 Å C18 column) using an acetonitrile:water gradient [50:50 to 98:2]. The appropriate fractions were concentrated in vacuo to give the titled compound (105 mg).

reactant | N-(3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-{[(dimethylamino)methylene]amino}-1H-pyrazol-4-yl)-1,1,1-trifluoro-N-methylmethanesulfonamide | 0.45 mmol, 240 mg | C(#N)C1=NN(C(=C1N(S(=O)(=O)C(F)(F)F)C)N=CN(C)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C16H12Cl2F6N6O2S
reactant | hydrochloric acid | 4N, 4 ml | Cl | ClH
solvent | methanol | 7 ml | CO | CH4O
product | N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-1,1,1-trifluoro-N-methylmethanesulfonamide | 105 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)N(S(=O)(=O)C(F)(F)F)C | C13H7Cl2F6N5O2S
